US06211234B1
2-Hydroxy-4-(3-thienylmethoxy)benzonitrile (0.5 g) is added portionwise to a stirred suspension of sodium hydride (90 mg, 60% dispersion in mineral oil) in dry DMF (100 mL). After stirring at ambient temperature for 30 minutes, ethyl (RS)-4-chloro-4-(2-chloro-6-fluorophenyl)butanoate (0.62 g) is added in one portion and the reaction stirred for 48 hours at 90° C. The reaction mixture is concentrated in vacuo and the residue partitioned between ethyl acetate (100 mL) and water (100 mL). The organic phase is dried over magnesium sulphate, filtered and concentrated in vacuo. The residue is purified by flash chromatography on silica eluting with a mixture of ethyl acetate and pentane (1:2 v/v). Fractions homogeneous in the required product are combined and evaporated to give ethyl (RS)-4-(2-chloro-6-fluorophenyl)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)butanoate (360 mg) as an orange oil.

reactant | 2-Hydroxy-4-(3-thienylmethoxy)benzonitrile | 0.5 g | OC1=C(C#N)C=CC(=C1)OCC1=CSC=C1 | C12H9NO2S
reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | ethyl (RS)-4-chloro-4-(2-chloro-6-fluorophenyl)butanoate | 0.62 g | ClC(CCC(=O)OCC)C1=C(C=CC=C1F)Cl | C12H13Cl2FO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | ethyl (RS)-4-(2-chloro-6-fluorophenyl)-4-(2-cyano-5-(3-thienylmethoxy)phenoxy)butanoate | 360 mg | ClC1=C(C(=CC=C1)F)C(CCC(=O)OCC)OC1=C(C=CC(=C1)OCC1=CSC=C1)C#N | C24H21ClFNO4S
